US06838463B2
To 2 ml of dimethylsulfoxide were added 183 mg of 4-chloro-6-(2-butynyloxy)pyrimidine, 220 mg of potassium carbonate, and 495 mg of 2,2,2-trifluoroethylamine, followed by stirring at a bath temperature of 60° C. for 9 hours. Then, 495 mg of 2,2,2-trifluoroethylamine was further added, and the mixture was stirred at 80° C. for 8 hours. Then, 495 mg of 2,2,2-trifluoroethylamine and 2 ml of dimethylsulfoxide were further added, and the mixture was stirred at 80° C. for 8 hours. The reaction mixture was then left for cooling to room temperature, diluted with ethyl acetate, and washed twice with an aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel thin layer chromatography to give 60 mg of 4-(2-butynyloxy)-6-(2,2,2-trifluoroethylamino)pyrimidine (the present compound (114)).

reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | 4-chloro-6-(2-butynyloxy)pyrimidine | 183 mg | ClC1=NC=NC(=C1)OCC#CC | C8H7ClN2O
reactant | potassium carbonate | 220 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoroethylamine | 495 mg | FC(CN)(F)F | C2H4F3N
reactant | 2,2,2-trifluoroethylamine | 495 mg | FC(CN)(F)F | C2H4F3N
reactant | 2,2,2-trifluoroethylamine | 495 mg | FC(CN)(F)F | C2H4F3N
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-butynyloxy)-6-(2,2,2-trifluoroethylamino)pyrimidine | 60 mg | C(C#CC)OC1=NC=NC(=C1)NCC(F)(F)F | C10H10F3N3O
